US03957988
2,7-Bis(4-aminobutyryl)thioxanthene Dihydrochloride
2,7-Bis(4-phthalimidobutyryl)thioxanthene, prepared from 4-phthalimidobutyryl chloride and thioxanthene by the method of S.S. Cheng et al., J. Med. Chem. 9, 945 (1966), is treated with hot glacial acetic acid after which concentrated HCl is added gradually with stirring. The mixture is heated to reflux for 24 hours with a constant stream of HCl gas passing through the mixture. The reaction mixture is stirred and refluxed for an additional 24 hours, cooled, and the product worked up in the usual manner.

reactant | 2,7-Bis(4-phthalimidobutyryl)thioxanthene | C1(C=2C(C(N1CCCC(=O)C1=CC=3CC4=CC(=CC=C4SC3C=C1)C(CCCN1C(C=3C(C1=O)=CC=CC3)=O)=O)=O)=CC=CC2)=O | C37H28N2O6S
reactant | 4-phthalimidobutyryl chloride | C1(C=2C(C(N1CCCC(=O)Cl)=O)=CC=CC2)=O | C12H10ClNO3
reactant | thioxanthene | C1=CC=CC=2SC3=CC=CC=C3CC12 | C13H10S
reactant | HCl | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,7-Bis(4-aminobutyryl)thioxanthene Dihydrochloride | Cl.Cl.NCCCC(=O)C1=CC=2CC3=CC(=CC=C3SC2C=C1)C(CCCN)=O | InChI=1S/C21H24N2O2S.2ClH/c22-9-1-3-18(24)14-5-7-20-16(11-14)13-17-12-15(6-8-21(17)26-20)19(25)4-2-10-23;;/h5-8,11-12H,1-4,9-10,13,22-23H2;2*1H
